US05168103
Ethanolic ammonia (25 mL) was added to a flask containing N-(2-ethoxy-3,4-dioxo-1-cyclobuten-1-yl)-N-(2-propenyl)glycine 1,1-dimethylethyl ester (2.5 g, 8.5 mmol) at room temperature. After 5 hours the reaction mixture was concentrated and purified by flash chromatography (5 cm diameter, elution with 5% methanol in dichloromethane) to yield N-(2-amino-3,4-dioxo-1-cyclobuten-1-yl)-N-(2-propenyl)glycine 1,1-dimethylethyl ester as a white solid (1.6 g, 71%, mp 175°-176° C.); IR (KBr, cm-1): 3300, 3140, 1810, 1740, 1670, 1650; MS (EI): 266 (M+, 34), 210 (24), 165 (100), 109 (54), 95 (89), 68 (68); 1H NMR (DMSO, 400 MHz): δ 7.70 (br s, NH2), 5.84-5.77 (m, 1H), 5.26 (d, J=17 Hz, 1H), 5.19 (d, J=10 Hz, 1H), 4.3-4.0 (br m, 4H), 1.39 (s, 9H).

reactant | ammonia | 25 mL | N | H3N
reactant | N-(2-ethoxy-3,4-dioxo-1-cyclobuten-1-yl)-N-(2-propenyl)glycine 1,1-dimethylethyl ester | 8.5 mmol, 2.5 g | CC(C)(C)OC(CN(CC=C)C1=C(C(C1=O)=O)OCC)=O | C15H21NO5
product | N-(2-amino-3,4-dioxo-1-cyclobuten-1-yl)-N-(2-propenyl)glycine 1,1-dimethylethyl ester | 1.6 g, 71% | CC(C)(C)OC(CN(CC=C)C1=C(C(C1=O)=O)N)=O | C13H18N2O4
